*Full Wave Bridge Rectifier Simulation with triangular input

BTRI in 0 V = { 5 * (2/pi) * asin( sin( 2*pi*7000*time ) ) }

D1 in n1 DI_1N4007
D2 0 n1 DI_1N4007
D3 n2 in DI_1N4007
D4 n2 0 DI_1N4007


R1 n1 n2 22k
C1 n1 n2 1u
*C value is fine from 1u to 47u

.include 1N4007.mod

.tran 0.1us 1ms
.control
  run
  set wr_singlescale
  wrdata task2tri.dat  v(n1,n2)
.endc

.end
